US04178449
Methyl 7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimid-3-yl ketone
A mixture of 3.0 g. of α-methyl-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-methanol and one gram of chromium trioxide in 75 ml. glacial acetic acid is allowed to remain at room temperature for 1 hour and then poured into water. The resultant solid is removed by filtration and then recrystallized from methylene chloride-n-hexane to yield the desired methyl ketone, m.p. 127°-130° C.

reactant | α-methyl-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-methanol | CC(O)C=1C=NN2C1N=CC=C2C=2C=C(C=CC2)C(F)(F)F | C15H12F3N3O
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | chromium trioxide | one gram | [O-2].[O-2].[O-2].[Cr+6]
solvent | water | O | H2O
product | Methyl 7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimid-3-yl ketone | FC(C1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C(=O)C)(F)F | C15H10F3N3O
